US05378712
By reacting 2-methyl-L-proline hydrobromide with p-cyanobenzoyl chloride analogously to Example 2b) there is obtained 1-(p-cyanobenzoyl)-2-methyl-L-proline. MS (EI): 213 (M--COOH)+.

reactant | 2-methyl-L-proline hydrobromide | Br.C[C@@]1(NCCC1)C(=O)O
reactant | p-cyanobenzoyl chloride | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
product | 1-(p-cyanobenzoyl)-2-methyl-L-proline | C(#N)C1=CC=C(C(=O)N2[C@](C(=O)O)(CCC2)C)C=C1 | C14H14N2O3
